Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]=[O:5].[O:1]=[C:2][H:3]>>[O:1][C:2]([H:3])=[C:4]=[O:5],-0.628239024731
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],2.98208088887
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9],4.6700777135
[H:1][O:2][C:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-0.285231890871
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-5.9632863726100025
[O:1]=[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2],0.7486902221989999
[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-4.06923747726
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4][H:5],6.29355298
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](\[O:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.83817336822
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],3.84812179014
[C:1]#[C:2][C@:3]([H:4])([O:5][O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[C:1]#[C:2][C@:3]([H:4])([O:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.7190522561
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])([H:8])[H:9],4.13085567964
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.75913898366
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-6.111600878300001
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.53148587825
[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.545959257439
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8][H:9])=[C:11]([H:12])[H:13],3.76240850151
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-3.33999030896
[C:1]#[C:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-2.63123065018
[O:1]=[C:2]=[C:11]([H:12])[H:13].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-2.03560935507
[H:1][C:2]([H:3])([H:4])[C:5]1([H:6])[C:7]([H:8])([H:9])[C:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:11]([C:10]([C:7]=[C:5]([H:6])[H:13])([H:8])[H:9])[H:12],-0.10213049568
[C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-0.77023604412
[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.27001492932
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],2.08993098688
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.526246723019999
[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],0.958157773467
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])=[O:10]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-3.31012045268
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-7.698058646900001
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-2.05776037277
